US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-(2-phenoxyethyl)piperazin-1-yl)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-6H-thiazolo[5,4-d]pyrimidin-7-one (133 mg, 0.46 mmol) in DMF (5 ml) was added DBU (0.69 mmol), BOP (0.59 mmol) and 1-(2-phenoxyethyl)piperazine (1.37 mmol). The reaction mixture was stirred at room temperature for 3 hours whereupon the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 2% CH3OH in CH2Cl2), yielding the pure title compound (56 mg) which was characterized by its mass spectrum: MS m/z (%): 479 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-6H-thiazolo[5,4-d]pyrimidin-7-one | 0.46 mmol, 133 mg | NC=1NC(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)=O | C13H11FN4OS
reactant | DBU | 0.69 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | BOP | 0.59 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(2-phenoxyethyl)piperazine | 1.37 mmol | O(C1=CC=CC=C1)CCN1CCNCC1 | C12H18N2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-(2-phenoxyethyl)piperazin-1-yl)-thiazolo[5,4-d]pyrimidine | 56 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCN(CC2)CCOC2=CC=CC=C2 | C25H27FN6OS
